US08039450B2
To a solution of 5-(4-cyano-3-hydroxyphenoxy)-1,3-dihydro-1-hydroxy-2,1-benzoxaborole (100 mg, 0.375 mmol) and iodomethane (0.070 mL. 1.1 mmol) in N,N-dimethylformamide (10 mL) was added sodium hydride (60% oil dispersion, 45 mg, 1.1 mmol) at 0° C. under nitrogen atmosphere, and the mixture was stirred at room temperature for 2 h. Water and 1 M HCl were added and the mixture was extracted with ethyl acetate. The organic layer was washed with brine and dried on anhydrous sodium sulfate. The solvent was removed under reduced pressure and the residue was treated with hexane/diisopropyl ether to give 5-(4-cyano-3-methoxyphenoxy)-1,3-dihydro-1-hydroxy-2,1-benzoxaborole (92 mg, 87%).

reactant | 5-(4-cyano-3-hydroxyphenoxy)-1,3-dihydro-1-hydroxy-2,1-benzoxaborole | 0.375 mmol, 100 mg | C(#N)C1=C(C=C(OC=2C=CC3=C(COB3O)C2)C=C1)O | C14H10BNO4
reactant | iodomethane | 1.1 mmol, 0.070 mL | IC | CH3I
reactant | sodium hydride | 1.1 mmol, 45 mg | [H-].[Na+]
reactant | HCl | 1 M | Cl | ClH
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 5-(4-cyano-3-methoxyphenoxy)-1,3-dihydro-1-hydroxy-2,1-benzoxaborole | 92 mg, 87% | C(#N)C1=C(C=C(OC=2C=CC3=C(COB3O)C2)C=C1)OC | C15H12BNO4
